US07220856B2
Preparation of (2S)-2-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid-methyl Ester
As described example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 2-isocyanato-propanic acid-methyl ester, and diisopropylethyl amine, are reacted to give the product as a white solid. LC-MS: 392 (M++1). 1H NMR (DMSO-d6) δ 1.30 (d, 3H), 2.96 (br.s, 4H), 3.55 (m, 4H), 3.61 (s, 3H), 4.16 (m, 1H), 6.26 (s, 1H), 6.45 (br.s, 2H), 6.90 (d, 1H), 7.10 (dd, 1H), 7.38 (d, 1H), 7.75 (d, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 2-isocyanato-propanic acid-methyl ester | COC(C(C)N=C=O)=O | C5H7NO3
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | (2S)-2-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-propanoic acid-methyl Ester | COC([C@H](C)NC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)N)=O | C18H22ClN5O3
